US06759410B1
c) 2-Phenyl-6-(phenylamino)benzylamine
The product of example 1b above, 2-phenylamino-6-phenylbenzonitrile, (0.13 g, 0.48 mmol) was dissolved in dry tetrahydrofuran (20 mL) and stirred under argon in a room temperature water bath. Lithium aluminum hydride (0.182 g, 4.8 mmol) was added rapidly. After 5 minutes at room temperature the reaction mixture was heated to 60° C. for 2 hours. The reaction mixture was cooled to room temperature and anhydrous sodium sulfate was added followed by the addition of a freshly prepared saturated solution of anhydrous sodium sulfate. The solvent was evaporated and the residue triturated with ethyl acetate, filtered and evaporated. Flash chromatography on silica gel eluted with 0-2% methanol in methylene chloride gave the title compound as a white amorphous solid. mp 115-116° C.

reactant | 2-phenylamino-6-phenylbenzonitrile | 0.48 mmol, 0.13 g | C1(=CC=CC=C1)NC1=C(C#N)C(=CC=C1)C1=CC=CC=C1 | C19H14N2
reactant | Lithium aluminum hydride | 4.8 mmol, 0.182 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-Phenyl-6-(phenylamino)benzylamine | C1(=CC=CC=C1)C1=C(CN)C(=CC=C1)NC1=CC=CC=C1 | C19H18N2
